US08580777B2
D. 3-{(S)-2-[(R)-3-(4-Aminophenyl)-2-tert-butoxycarbonylaminopropionylamino]-3-methylbutoxy}propionic acid
355.0 mg (0.52 mmol) of ethyl 3-((S)-2-{(R)-2-tert-butoxycarbonylamino-3-[4-(9H-fluoren-9-ylmethoxycarbonylamino)phenyl]propionylamino}-3-methylbutoxy)propionate were dissolved in a mixture of 9 ml of THF and 3 ml of MeOH. 1.29 ml (1.29 mmol) of an aqueous 1M LiOH solution were added, and the resulting reaction mixture was stirred at room temp. for 1 h. After the reaction was complete, the mixture was neutralized by adding a little aqueous 1N HCl solution, concentrated under reduced pressure and codistilled with toluene. The product obtained in this way (225.0 mg) was employed crude in the next reaction.

reactant | ethyl 3-((S)-2-{(R)-2-tert-butoxycarbonylamino-3-[4-(9H-fluoren-9-ylmethoxycarbonylamino)phenyl]propionylamino}-3-methylbutoxy)propionate | 0.52 mmol, 355.0 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N[C@H](COCCC(=O)OCC)C(C)C)CC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C39H49N3O8
reactant | LiOH | 1M | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
product | 3-{(S)-2-[(R)-3-(4-Aminophenyl)-2-tert-butoxycarbonylaminopropionylamino]-3-methylbutoxy}propionic acid | NC1=CC=C(C=C1)C[C@H](C(=O)N[C@H](COCCC(=O)O)C(C)C)NC(=O)OC(C)(C)C | C22H35N3O6
